Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
antihistamine
 
Attending: ___.
 
Chief Complaint:
hematuria  and anemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old man with a past medical history 
significant for prostate cancer diagnosed in ___ who has 
declined surgery or radiation oncology treatment to date, who 
presented to the ___ ED after being referred by his urologist 
at ___ for anemia secondary to recent hematuria. 
Mr. ___ reports that he has had gross hematuria with clots 
for 4 days along with urinary obsruction. He held off going to 
the ED thinking that the hematuria would resolve on its own, as 
he has had it in the past. He experienced nausea, headaches, 
fatigue, and some disorientation in association with the 
hematuria and obstruction. He denies any pain or burning with 
urination in the days leading up to admission. He finally went 
to see his urologist on ___ who found him to be febrile to 
101 and in acute retention. A foley was placed which drained 
1200cc of urine and blood clots. Mr. ___ reports that after 
foley placement he experienced quite a bit of relief of his 
distension, nausea, and headache. He was given 1 g CTX IM, IV 
hydration and prescribed ciprofloxacin. He went home from his 
visit, but later was called and informed that blood work had 
come back with a hgb of 6.7, and he was referred ot the ___ ED 
for anemia. 

In the ED his initial vitals were: Temp 99.7 HR 82 BP 107/88 and 
O2 saturation of 100% RA. Labs were significant for WBC of 17 
and hgb of 5.9. He was started on ceftriaxone, given 1L of NS 
and was transfused 2uPRBC.

Upon initial arrival to the floor, Mr. ___ was in no acute 
distress and had no pain. There was no obvious blood in his 
foley bag. He denied any current pain with urination, fevers, 
chills, myalgias, or noticeable blood in his urine. He has had 
to have a catheter placed ___ times since his diagnosis of 
prostate cancer in ___, and he has several other episodes of 
gross hematuria in the past, but has never required a 
transfusion before. 

Review of systems notable for some reported recent weight loss 
attributed to "herbal gallbladder cleanse"; self-reported 
"slight confusion" that is now clearing up, generalized fatigue 
and recently needing assistance with walking. No changes in 
appetite, melena or hematochezia.
 
Past Medical History:
Prostate cancer Gl 8, PSA 30.8 (diagnosed ___
Hypertension
Hematuria
Anemia
Renal mass
Colonic polyp
Ureteral stricture

 
Social History:
___
Family History:
Multiple male family members, including brother, with prostate 
cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==================================================
Vitals: 97.8 113/60 66 16 99%RA  
General: Alert, oriented, no acute distress,  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: Foley in place draining clear yellow urine  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation  

DISCHARGE PHYSCAL EXAM
===================================================
Vitals: Tm97.7 BP113-118/50s-60s HR66-86 O290 RA
General: lying in bed, awake, alert, oriented and appears 
comfortable.  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL.  
Neck: Supple, JVP not elevated, no LAD.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, no suprapubic 
tenderness
Rectal: nontender prostate, palpable prostate, no gross blood  
GU: Foley in place draining clear yellow urine, no blood at the 
urethral meatus, nontender prostate.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: AOx3; no focal deficits
 
Pertinent Results:
ADMISSION LABS
===========================================
___ 09:40PM BLOOD WBC-17.8*# RBC-2.31*# Hgb-5.9*# 
Hct-18.6*# MCV-81* MCH-25.5* MCHC-31.7* RDW-17.6* RDWSD-51.0* 
Plt ___
___ 09:40PM BLOOD Neuts-83.7* Lymphs-8.5* Monos-6.9 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.88* AbsLymp-1.51 
AbsMono-1.23* AbsEos-0.01* AbsBaso-0.03
___ 09:40PM BLOOD Glucose-100 UreaN-12 Creat-1.3* Na-131* 
K-6.6* Cl-98 HCO3-23 AnGap-17
___ 11:11PM BLOOD K-4.5
___ 11:28PM BLOOD Lactate-1.1
___ 09:40PM BLOOD calTIBC-337 Ferritn-15* TRF-259
___ 09:40PM BLOOD Iron-19*
___ 06:15AM BLOOD Ret Aut-2.5* Abs Ret-0.07
___ 10:59PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:59PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 10:59PM URINE RBC-4* WBC-38* Bacteri-FEW Yeast-NONE 
Epi-0
___ 10:59PM URINE Mucous-RARE

DISCHARGE AND PERTINENT LABS
============================================
___ 06:15AM BLOOD WBC-13.6* RBC-2.77* Hgb-7.2* Hct-22.7* 
MCV-82 MCH-26.0 MCHC-31.7* RDW-17.0* RDWSD-50.6* Plt ___
___ 03:30PM BLOOD WBC-12.0* RBC-3.04* Hgb-7.8* Hct-25.3* 
MCV-83 MCH-25.7* MCHC-30.8* RDW-17.0* RDWSD-51.3* Plt ___
___ 03:30PM BLOOD Plt ___
___ 03:30PM BLOOD ___ PTT-34.3 ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Ret Aut-2.5* Abs Ret-0.07
___ 03:30PM BLOOD Glucose-108* UreaN-12 Creat-1.0 Na-136 
K-4.3 Cl-102 HCO3-23 AnGap-15
___ 03:30PM BLOOD ALT-10 AST-18 AlkPhos-51 TotBili-0.4
___ 03:30PM BLOOD Calcium-8.7 Phos-3.1 Mg-2.5 Iron-PND
___ 03:30PM BLOOD Ferritn-PND TRF-PND

MICROBIOLOGY
============================================

URINE AND BLOOD CULTURES PENDING.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a past medical history 
notable for prostate cancer diagnosed in ___ for which he has 
not undergone surgical or radiation oncology treatment as per 
his preference who was referred to ___ ED from his ___ 
clinic with several days of hematuria, acute obstruction, fever, 
leukocytosis and positive urinalysis most concerning for anemia 
and post-obstructive UTI in the setting of prostate cancer.

#Anemia: Mr. ___ was referred to the ___ ED by his 
urologist because of bloodwork significant for a hemoglobin of 
6.7. In the ED, Mr. ___ had a hemoglobin of 5.9, with the 
drop most likely due to recent administration of IV fluid and 
ensuing hemodilution.  Upon admission he was transfused 2 units 
of PRBCs and responded appropriately, with a resulting 
hemoglobin of 7.2 the following morning. Given his recent 
history of four days of hematuria and blood clots in his urine, 
the acute drop in hemoglobin from his baseline was most likely 
secondary to urinary blood loss. After initial transfusion, 
hemoglobin and hematocrit responded appropriately and remained 
stable throughout the rest of the hospitalization. Mr. ___ 
was also hemodynamically stable throughout his hospitalization. 
No more frank blood was seen in the foley bag at any point 
during the hospitalization, indicating the acute gross bleed had 
resolved. By the time Mr. ___ was discharged, his hemoglobin 
was 7.8. Also of note is that Mr. ___ had a hemoglobin of 
13.2 in ___, and 8.6 on ___, consistent with 
superimposed iron deficiency anemia given low iron, low 
ferritin, and normal TRF on further workup of anemia. He was 
started on iron supplementation upon discharge.

#Hematuria: Mr. ___ had four days of hematuria prior to his 
urology appointment, during which he noticed frank blood in his 
urine as well as passing blood clots. He has had multiple 
episodes of hematuria in the past. The most likely cause of this 
frank bleeding is prostate cancer. His recent PSA was 30.8, 
whereas earlier PSA values were 10.9 and 9.2, indicating 
potential growth of the prostatic malignancy. A urinary tract 
infection is also on the differential as a possible contributing 
factor to his frank hematuria, as Mr. ___ had fever, 
leukocytosis, and positive urinalysis all suggestive of UTI. As 
above, no additional frank blood or clots were seen in the foley 
bag throughout the hospitalization, suggesting that the acute 
bleed had resolved. Mr. ___ hemoglobin and hematocrit 
responded appropriately to the initial transfusion of 2 units of 
PRBCs and then remained stable throughout the hospital course. 
No further transfusions were required. Mr. ___ was 
discharged with his foley in place with the plan to keep it in 
for 2 weeks, as per his primary urologist. Mr. ___ 
follow up with his urologist as an outpatient. 

#Acute obstruction/Urinary Retention: At the same time that Mr. 
___ was experiencing four days of gross hematuria prior to 
admission, he was also experiencing urinary obstruction. When he 
went to see his urologist, a foley was placed that drained 
1200cc of urine and clots, providing almost immediate relief of 
distension, nausea, discomfort, and headache that the patient 
had been experiencing in conjunction with his progressive 
hematuria and obstruction. Mr. ___ has a history of ureteral 
stenosis, BPH, and prostate cancer, all of which could 
potentially have caused this acute obstruction. Additionally, 
his post-obstructive fever, positive urinalysis, and 
leukocytosis indicate some kind of acute infectious process, 
most consistent with UTI, which in the setting of ureteral 
stenosis could cause inflammatory obstruction. Lastly, 
prostatitis is also on the differential, but given nontender 
prostate on DRE, seems a less likely infectious etiology.As 
above, Mr. ___ was discharged with the foley catheter in 
place for 2 weeks as per the recommendation of his urologist. He 
will follow up with a voiding trial at that time. Presumed UTI 
was treated with 1g IV ceftriaxone q24h for two days, then 
transitioned to ciprofloxacin 500 mg PO BID in anticipation of 
discharge on afternoon of ___. He will complete a 14 day 
course of the PO ciprofloxacin prescription (start date: ___ 
in the outpatient setting.  

#Prostate Cancer: Mr. ___ was diagnosed with prostate cancer 
in ___. He has, to date, not wanted any kind of surgical or 
radiation oncology treatment. However, his most recent PSA was 
30.8, up from 10.9 and 9.2 previously, indicating potential 
progression. It was recommend he follow up this elevated PSA 
value as an outpatient, and continue conversations with his PCP 
and urologist about pursuing any further treatment options.

TRANSITIONAL ISSUES:
#f/u CBC ordered ___
#f/u blood and urine cultures
#f/u h/h/iron deficiency anemia
#f/u PSA 30.8
#Continue 14 day course of ciprofloxacin 500mg q12h 
#f/u voiding trial with Urology in two weeks
#CODE: DNR/DNI
___, wife
 
___ on ___:
None.
 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
Please take this for 14 days. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*28 Tablet Refills:*0
2. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
3. Outpatient Lab Work
CBC for f/u of ANEMIA ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Anemia 
Hematuria
Urinary Tract Infection

SECONDARY DIAGNOSIS
Acute Urinary Obstruction
Prostate Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted after 
blood work from your ___ indicated your red blood 
cell level was low. This is likely caused by prostate cancer 
causing blood loss through your urine. While you were 
hospitalized you were given a blood transfusion. We monitored 
your blood levels closely throughout your hospitalization, they 
improved and have since remained stable. 

In addition, when you presented to clinic you also had a fever 
and the test of your urine suggested you have a urinary tract 
infection. You were started on antibiotics for treatment, and we 
have continued those throughout your hospitalization. You will 
be discharged on oral antibiotics to take for 14 days of 
treatment.

You also had a foley catheter placed at your ___ 
visit, because you had not been able to urinate on your own. 
This will remain in place for two weeks until a voiding trial 
can determine whether or not you are able to spontaneously 
urinate again. We recommend that you follow up with both your 
PCP and urologist.

If you begin to notice blood clots in your urine again, blood at 
the tip of your penis, any pain with urination, lower back pain, 
fevers, chills, or extreme fatigue, please seek medical 
attention.

We wish you the best of luck in your health!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___